US09334269B2
To a solution of 2-chloro-4-(4-((4-(trifluoromethoxy)benzyl)oxy)piperidin-1-yl)-1,3,5-triazine (500 mg, 1.28 mmol) in isopropanol (4 mL, 3 mL/mmol) was added DIPEA (0.4 mL, 1.92 mmol) and 3-amino-N,2-dimethylbenzamide (211 mg, 1.29 mmol) and the reaction was stirred at 80° C. for 24 h. The reaction mixture was concentrated under reduced pressure and extracted with EtOAc (2×30 ml). The organic extracts were washed with brine, dried over sodium sulfate and concentrated under reduced pressure. Purification by silica gel column chromatography provided N,2-dimethyl-3-((4-(4-((4-(trifluoromethoxy)benzyl)oxy)piperidin-1-yl)-1,3,5-triazin-2-yl)amino)benzamide (100 mg, 16%) as a solid. Observed mass (M+1): 517.1.

reactant | 2-chloro-4-(4-((4-(trifluoromethoxy)benzyl)oxy)piperidin-1-yl)-1,3,5-triazine | 1.28 mmol, 500 mg | ClC1=NC=NC(=N1)N1CCC(CC1)OCC1=CC=C(C=C1)OC(F)(F)F | C16H16ClF3N4O2
reactant | DIPEA | 1.92 mmol, 0.4 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-amino-N,2-dimethylbenzamide | 1.29 mmol, 211 mg | NC=1C(=C(C(=O)NC)C=CC1)C | C9H12N2O
solvent | isopropanol | 4 mL | C(C)(C)O | C3H8O
product | N,2-dimethyl-3-((4-(4-((4-(trifluoromethoxy)benzyl)oxy)piperidin-1-yl)-1,3,5-triazin-2-yl)amino)benzamide | 100 mg, 16% | CNC(C1=C(C(=CC=C1)NC1=NC=NC(=N1)N1CCC(CC1)OCC1=CC=C(C=C1)OC(F)(F)F)C)=O | C25H27F3N6O3
